US05066825
136 ml of a 1.6M n-butyl lithium solution in hexane are added to a solution of 48.5 g of 3,4,5-trimethoxybenzaldehyde dimethyl acetal in 485 ml of tetrahydrofuran under stirring at 0° C. for about 20 minutes. The mixture is further stirred at 0° C. for 30 minutes, and 33.2 g of 3,4-dimethoxybenzaldehyde are added thereto. After stirring the mixture at 0° to 10° C. for 2 hours, 780 ml of water and 780 ml of ethyl acetate are added thereto. After shaking the mixture, the organic layer is separated therefrom, washed with water and evaporated under reduced pressure to remove solvent. 81.0 g of 2-(3,4-dimethoxy-α-hydroxybenzyl)-3,4,5-trimethoxybenzaldehyde dimethyl acetal are thereby obtained as a yellow oil.

reactant | n-butyl lithium | 1.6M | C(CCC)[Li]
reactant | 3,4,5-trimethoxybenzaldehyde dimethyl acetal | 48.5 g | COC(C1=CC(=C(C(=C1)OC)OC)OC)OC | C12H18O5
reactant | 3,4-dimethoxybenzaldehyde | 33.2 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | water | 780 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 485 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 780 ml | C(C)(=O)OCC | C4H8O2
product | 2-(3,4-dimethoxy-α-hydroxybenzyl)-3,4,5-trimethoxybenzaldehyde dimethyl acetal | 81.0 g | COC(C1=C(C(=C(C(=C1)OC)OC)OC)C(C1=CC(=C(C=C1)OC)OC)O)OC | C21H28O8
